US09169212B2
To a solution of 3-(4-benzyloxyazepan-1-yl)sulfonyl-N-(3-chloro-4-fluoro-phenyl)-4-(2-fluoroethyl)benzamide (65.00 mg, 115.44 umol, 1.00 Eq) in MeOH (15 mL) was added Pd/C (30.00 mg, 115.44 umol, 1.00 Eq) under N2. The suspension was degassed under vacuum and purged with H2 several times. The mixture was stirred under H2 at 25° C. for 16 hr. TLC showed the starting material was consumed completely. The reaction mixture was filtered and the filter was concentrated, purified by prep-TLC (eluting with PE:EA=1:1) to afford product N-(3-chloro-4-fluoro-phenyl)-4-(2-fluoroethyl)-3-(4-hydroxyazepan-1-yl)sulfonyl-benzamide (24.00 mg, 50.75 umol, 43.96% yield) as white solid.

reactant | 3-(4-benzyloxyazepan-1-yl)sulfonyl-N-(3-chloro-4-fluoro-phenyl)-4-(2-fluoroethyl)benzamide | 115.44 umol, 65.00 mg, 1.00 Eq | C(C1=CC=CC=C1)OC1CCN(CCC1)S(=O)(=O)C=1C=C(C(=O)NC2=CC(=C(C=C2)F)Cl)C=CC1CCF | C28H29ClF2N2O4S
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Pd/C | 115.44 umol, 30.00 mg, 1.00 Eq | [Pd] | Pd
product | N-(3-chloro-4-fluoro-phenyl)-4-(2-fluoroethyl)-3-(4-hydroxyazepan-1-yl)sulfonyl-benzamide | 50.75 umol, 24.00 mg, 43.96% yield | ClC=1C=C(C=CC1F)NC(C1=CC(=C(C=C1)CCF)S(=O)(=O)N1CCC(CCC1)O)=O | C21H23ClF2N2O4S
